US06143763
A suspension of 6-(3-chloropropoxy)carbostyril (170 g) and sodium iodide (129.5 g) in dimethylformamide (1.7 liter) is heated with stirring at 60° C. for one hour. To the mixture is added potassium phthalimide (159 g), and the mixture is heated with stirring at 70° C. for 6 hours. After the mixture is allowed to cool, the precipitated crystals are collected by filtration, and washed with water. The mixture is further washed successively with ethanol and diethyl ether, and dried to give 6-(3-phthalimidopropoxy)carbostyril (222 g) as a white powder.

reactant | 6-(3-chloropropoxy)carbostyril | 170 g | ClCCCOC=1C=C2C=CC(NC2=CC1)=O | C12H12ClNO2
reactant | sodium iodide | 129.5 g | [I-].[Na+]
reactant | potassium phthalimide | 159 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 1.7 liter | CN(C=O)C | C3H7NO
product | 6-(3-phthalimidopropoxy)carbostyril | 222 g | C1(C=2C(C(N1CCCOC=1C=C3C=CC(NC3=CC1)=O)=O)=CC=CC2)=O | C20H16N2O4
